US06693114B2
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide (180 mg) is suspended in EtOH (50 mL) and PtO2 is added. The mixture is shaken under an atmosphere of H2 (45 psi) for 2 h. The solution is filtered through Celite, and concentrated in vacuo. The residue is purified by silica gel chromatography (CH2Cl2/MeOH 1/0, 45/1, 19/1) and recrystallyzed from MeOH to afford 55 mg of N-(4-chlorobenzyl)-6-(3-hydroxypropyl)-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide. Physical characteristics are as follows: 1H NMR (CDCl3) δ10.49-10.46, 8.82, 7.35-7.30, 4.66, 4.12, 4.00, 3.71, 2.81, 1.98-1.88; IR (diffuse reflectance) 2350, 2317, 1940, 1921, 1916, 1663, 1617, 1568, 1550, 1516, 1456, 1397, 1385, 1283, 809, cm−1; MS (El) m/z 414 (M+), 415, 276, 275, 249, 248, 246, 140, 84, 77, 57.

reactant | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 180 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)C#CCO)OC)C)C=C1 | C21H18ClN3O4
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | N-(4-chlorobenzyl)-6-(3-hydroxypropyl)-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 55 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)CCCO)OC)C)C=C1 | C21H22ClN3O4
